US05756519
a) ethyl 3-[4-(carboxy)phenylamino]propionate
A solution of 4-aminobenzoic acid (6.85 g, 0.05 mol) and ethyl acrylate (15 g, 0.15 mol) in acetic acid (40 mL) was heated to 100° C. for 15 h. The solid which formed was filtered, washed with hexane and dried to give of the title compound (7.5 g, 63%).

reactant | 4-aminobenzoic acid | 0.05 mol, 6.85 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | ethyl acrylate | 0.15 mol, 15 g | C(C=C)(=O)OCC | C5H8O2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | ethyl 3-[4-(carboxy)phenylamino]propionate | 7.5 g, 63% | C(=O)(O)C1=CC=C(C=C1)NCCC(=O)OCC | C12H15NO4
